US09328124B2
Racemic N-[6-(5-Fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
1-Chloro-N,N,2-trimethylpropenylamine (492 μL, 3.71 mmol) is added to a stirred solution of N-[[1-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-4-(hydroxymethyl)-3-pyrazin-2-yl-pyrrolidin-3-yl]carbamothioyl]benzamide (1.32 g, 2.65 mmol) in dichloromethane (30 mL) at room temperature. The reaction mixture is stirred for 1 hour 30 minutes. Then a saturated aqueous solution of sodium bicarbonate (20 mL) is added followed by dichloromethane (70 mL). The layers are separated and the aqueous layer is re-extracted with dichloromethane (70 mL). The combined organic layers are dried over magnesium sulfate and the solvent is evaporated under reduced pressure. The resulting residue is dissolved in methanol (40 mL) and loaded on an ion exchange column. The column is eluted with methanol (60 mL) then with 7 M ammonia/methanol solution (100 mL). The basic solvent fraction is collected and evaporated under reduced pressure. The isolated residue is further purified by silica gel column chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (820 mg, 64%). ES/MS (m/e): 480 (M+1).

reactant | 1-Chloro-N,N,2-trimethylpropenylamine | 3.71 mmol, 492 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N-[[1-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-4-(hydroxymethyl)-3-pyrazin-2-yl-pyrrolidin-3-yl]carbamothioyl]benzamide | 2.65 mmol, 1.32 g | FC=1C(=NC(=NC1C)N1CC(C(C1)CO)(C1=NC=CN=C1)NC(=S)NC(C1=CC=CC=C1)=O)OC | C23H24FN7O3S
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | Racemic N-[6-(5-Fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 820 mg, 64% | FC=1C(=NC(=NC1C)N1CC2(N=C(SCC2C1)NC(C1=CC=CC=C1)=O)C1=NC=CN=C1)OC | C23H22FN7O2S
